US08609675B2
A degassed mixture of tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yloxy)piperidine-1-carboxylate (Int-11c, 0.26 mmol, 216 mg), Pd(PPh3)4 (30 mg, 0.026 mmoL), (Z)-tributyl(2-ethoxyvinyl)stannane (142 mg, 0.39 mmoL) in Dioxane (6 mL) was heated at 100° C. overnight. The reaction mixture was cooled to room temperature, filtered through 9:1 SiO2:KF plug and concentrated in vacuo. The crude (Z)-ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(2-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate (Int-11d) was treated with 50% TFA in H2O (6 mL) and stirred overnight. The reaction mixture was concentrated in vacuo. Purification with prep-LC provided 3-(6-phenylpyridin-3-yl)-5-(piperidin-4-yloxy)-8H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine (Int-11e): LCMS tR=2.71 Min (10 min run, UV254nm). Mass calculated for, M+410.1, observed m/z 411.1 (M+H).

reactant | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yloxy)piperidine-1-carboxylate | 0.26 mmol, 216 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)Br)COCC[Si](C)(C)C)(C)C | C39H57BrN6O5Si2
reactant | (Z)-tributyl(2-ethoxyvinyl)stannane | 142 mg | C(CCC)[Sn](\C=C/OCC)(CCCC)CCCC
solvent | Dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(6-phenylpyridin-3-yl)-5-(piperidin-4-yloxy)-8H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine | C1(=CC=CC=C1)C1=CC=C(C=N1)C=1C=NN2C1N=C(C1=C2NC=C1)OC1CCNCC1 | C24H22N6O
